US06498172B1
3-(3-{[Benzenesulfonyl-(4-thiazol-2-yl-benzyl)-amino]-methyl}-phenyl)-propionic acid methyl ester
The title compound of Step A was prepared from 3-{3-[(4-thiazol-2-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester, prepared in Step A of Example 11e, and benzenesulfonyl chloride, following the method described in Example 1, Step B using triethylamine in place of N,N-diisopropylethylamine. 1H NMR (400 MHz, CDCl3) δ 7.87 (m, 3H), 7.80 (d, 2H), 7.62 (m, 1H), 7.56 (m, 2H), 7.33 (d, 1H), 7.11 (m, 3H), 7.03 (d, 1H), 6.87 (d, 1H), 6.78 (s, 1H), 4.34 (s, 2H), 4.32 (s, 2H), 3.65 (s, 3H), 2.79 (t, 2H), 2.48 (t, 2H); MS 507 (M+1).

reactant | 3-{3-[(4-thiazol-2-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C=1SC=CN1)=O | C21H22N2O2S
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(3-{[Benzenesulfonyl-(4-thiazol-2-yl-benzyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CN(CC1=CC=C(C=C1)C=1SC=CN1)S(=O)(=O)C1=CC=CC=C1)=O | C27H26N2O4S2
